reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C:3]([C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],49.5005343377681
[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[N:4]1[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:15]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],66.7440068381512
[O:1]([C@@:2]12[C@@:3]3([H:8])[N:4]1[C@:5]2([H:10])[C:6]([H:11])=[C:7]3[H:12])[H:9]>>[O:1]=[C:2]1[C@@:3]2([H:8])[N:4]([H:9])[C@:5]1([H:10])[C:6]([H:11])=[C:7]2[H:12],44.2815415327301
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])=[C:5]=[C:6]([H:10])[H:14])([H:7])([H:8])[H:9],78.7357918383163
[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]([N+:6]#[C-:5])[H:11])[H:10])([H:7])([H:8])[H:9],93.4149378556383
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[H:8][H:11].[O:1]=[C:2]([C@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:9])[H:10],100.05525263165501
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C@:5]1([O:6][H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],38.3110258651914
[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](=[C:2]1[C:3]([H:8])([H:9])[C@@:4]1([C:5]#[N:6])[H:10])([H:7])[H:11],91.1132091350633
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:4]([H:13])([H:14])[O:5][C:6]1=[O:7])([H:8])([H:9])[H:10].[O:3]([H:12])[H:15],90.1496977854435
[C:1]([N:2]([C:3]([O-:4])=[C+:5][C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10].[C:6]([H:12])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],8.48967597391841
[C-:5]#[O+:6].[C:1](/[C:2](=[C:3](/[O:4][H:13])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],46.10544562446611
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:7](=[C:6])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],16.139259676800805
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O+:1](=[C-:2][H:6])[C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10],111.701175678447
[O:1]([O:4][C:3](=[C:2]([H:8])[H:9])[C:5]([O:6][H:12])([H:10])[H:11])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],54.21048168732719
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:6]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])=[N:7]1)([H:8])([H:9])[H:10],104.53363268094999
[N:1]([C:2]#[C:7][H:10])(/[N:4]=[N:3]\[C:6](=[O:5])[H:9])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],16.236870297838095
[O:1]([C:5]1=[N:6][C@@:2]1([C:3]#[N:4])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],73.43031576949912
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:3][H:11])[C@@:4]([O:5][H:14])([H:13])[C:6]1=[C:7]([H:12])[H:15])([H:8])([H:9])[H:10],82.5892916930397
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[C:5]([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16],74.95039297548209
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][O:4][C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],107.60834628273199
[C:1]([C:2][C:3]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10].[C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:11])([H:15])[H:16]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],10.352844456427704
[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:7])[H:9])([H:6])[H:8]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],43.2704547477781
[C-:4]#[O+:5].[N:1]([C:2](=[O:3])[C:6](=[O:7])[H:10])([H:8])[H:9]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],57.21589479196594
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2][H:8])([O:6][C@@:5]1([H:11])[O:3][C:4]1([H:9])[H:10])[H:7],100.00204459262899
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O+:4]=[C-:5][C@@:6]12[H:14].[H:12][H:13]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14],18.6715597622413
